US08110573B2
Preparation of 3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-ylamine
[3-(2-Amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester (1.350 Kg, 3.24 mol, 1.0 wt) and ethanol (6.75 L, 5.0 vol) were charged to a flange flask equipped with a mechanical stirrer, condenser and thermometer. Conc. aq. hydrochloric acid (1.10 L, 13.2 mol, 0.80 vol) was added at 15 to 30° C. under nitrogen and the contents were then heated to 70 to 80° C. and maintained at this temperature for 16 to 24 hours. A second portion of hydrochloric acid (0.11 L, 1.32 mol, 0.080 vol) was added at 70 to 80° C. and the reaction was heated for a further 4 hours. Reaction completion was determined by HPLC analysis. The reaction mixture was cooled to 10 to 20° C. and potassium carbonate (1.355 Kg, 9.08 mol, 1.0 wt) was charged portionwise at this temperature. The suspension was stirred until gas evolution ceased and was then filtered. The filter-cake was washed with ethanol (1.35 L, 1.0 vol) and the filtrates retained. The filter-cake was slurried with ethanol (4.00 L, 3.0 vol) at 15 to 25° C. for 20 to 40 minutes and the mixture was filtered. The filter-cake was washed with ethanol (1.35 L, 1.0 vol) and the total combined filtrates were concentrated under vacuum at 35 to 45° C. Ethanol (4.00 L, 3.0 vol) was charged to the residue and removed under vacuum at 35 to 45° C. Tetrahydrofuran (5.90 L, 4.4 vol) was added to the residue and stirred for 10 to 20 minutes at 15 to 25° C. The resulting solution was filtered, the filter-cake was washed with tetrahydrofuran (1.35 L, 1.0 vol) and the combined filtrates were concentrated under vacuum at 35 to 45° C. Tetrahydrofuran (5.40 L, 4.0 vol) was charged to the concentrate and removed under vacuum at 35 to 45° C. Tetrahydrofuran (5.40 L, 4.0 vol) was charged to the concentrate and removed under vacuum at 35 to 45° C. to give the desired product, 3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-ylamine (0.924 Kg, 95.5%, 82.84% by HPLC area) as a purple foam.

reactant | [3-(2-Amino-4-morpholin-4-ylmethyl-phenylcarbamoyl)-1H-pyrazol-4-yl]-carbamic acid tert-butyl ester | 3.24 mol, 1.350 Kg | C(C)(C)(C)OC(NC=1C(=NNC1)C(NC1=C(C=C(C=C1)CN1CCOCC1)N)=O)=O | C20H28N6O4
reactant | hydrochloric acid | 13.2 mol, 1.10 L | Cl | ClH
reactant | hydrochloric acid | 1.32 mol, 0.11 L | Cl | ClH
reactant | potassium carbonate | 9.08 mol, 1.355 Kg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 6.75 L | C(C)O | C2H6O
product | 3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.924 Kg | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1 | C15H18N6O
